US09102607B2
60 g (434 mmol) of salicylic acid and 111 ml of N,N-dimethylaniline are dissolved in 360 ml of toluene. The medium is cooled to 0° C. and then 41.5 ml (434 mmol) of ethyl chloroformate are added dropwise. After stirring for 2 hours at ambient temperature, the mixture is washed with a 1N aqueous hydrochloric acid solution and then with a saturated sodium chloride solution. The organic phase is dried over magnesium sulphate, filtered and concentrated. The residue is taken up in dichloromethane and precipitated from heptane. The solid is filtered off and then dried. 38 g of 2-(ethoxycarbonyloxy)benzoic acid are obtained in the form of a white solid with a yield of 42%.

reactant | salicylic acid | 434 mmol, 60 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | N,N-dimethylaniline | 111 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | ethyl chloroformate | 434 mmol, 41.5 ml | ClC(=O)OCC | C3H5ClO2
solvent | toluene | 360 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(ethoxycarbonyloxy)benzoic acid | 38 g, yield of 42% | C(C)OC(=O)OC1=C(C(=O)O)C=CC=C1 | C10H10O5
